US06720320B2
2-(4-hydroxybenzo(b)furan-2-yl)-5-methyl-1,3,4-oxadiazole
By the reactions in the same manner as in Starting Material Synthesis Example 5 using 2-(4-methoxybenzo(b)furan-2-yl)-5-methyl-1,3,4-oxadiazole (6.5 g) and boron tribromide (27 ml), the title compound (3.3 g) was obtained as yellow crystals.

reactant | 2-(4-methoxybenzo(b)furan-2-yl)-5-methyl-1,3,4-oxadiazole | 6.5 g | COC1=CC=CC=2OC(=CC21)C=2OC(=NN2)C | C12H10N2O3
reactant | boron tribromide | 27 ml | B(Br)(Br)Br | BBr3
product | 2-(4-hydroxybenzo(b)furan-2-yl)-5-methyl-1,3,4-oxadiazole | 3.3 g | OC1=CC=CC=2OC(=CC21)C=2OC(=NN2)C | C11H8N2O3
